US05047411
To a solution of 6-[2-(5-methyl-2-pyridyl)ethyl]-2-aminobenzothiazole (1.35 g) in acetic acid (15 ml) was dropwise added a solution of bromine (0.8 g) in acetic acid (2 ml) at 20° to 22° C. under stirring and the resultant mixture was stirred at ambient temperature for 5 hours. The reaction mixture was poured into a mixture of water and ethyl acetate and the mixture was acidified to pH 1.0 with 10% hydrochloric acid. The separated aqueous layer was adjusted to pH 8.0 with aqueous 20% potassium carbonate and extracted with a mixture of ethyl acetate and tetrahydrofuran. The extract was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and residue was recrystallized from a mixture of ethyl acetate and tetrahydrofuran to give 6-[2-(5-methyl-2-pyridyl)ethyl]-2-amino-4-bromobenzothiazole (0.9 g).

reactant | 6-[2-(5-methyl-2-pyridyl)ethyl]-2-aminobenzothiazole | 1.35 g | CC=1C=CC(=NC1)CCC1=CC2=C(N=C(S2)N)C=C1 | C15H15N3S
reactant | bromine | 0.8 g | BrBr | Br2
reactant | hydrochloric acid | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 6-[2-(5-methyl-2-pyridyl)ethyl]-2-amino-4-bromobenzothiazole | 0.9 g | CC=1C=CC(=NC1)CCC1=CC2=C(N=C(S2)N)C(=C1)Br | C15H14BrN3S
